US07504392B2
c) 2-(3-Ethoxy-phenyl)-ethylamine
To a solution of LiAlH4 (1M in THF, 13 mL) was added dropwise a solution of 1-ethoxy-3-(2-nitro-ethyl)-benzene (0.5 g, 2.6 mmol) in THF (8 mL). The mixture was refluxed for two hours before allowing to cool and adding dropwise to rochelles salt. The mixture was extracted with ethyl acetate, dried with sodium sulfate and evaporated to dryness. The resulting yellow oil was purified by chromatography on silica, eluting with 3 to 15% MeOH/NH3 in dichloromethane, yielding the subtitled compound as a yellow oil (0.23 g).

reactant | LiAlH4 | 1M, 13 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-ethoxy-3-(2-nitro-ethyl)-benzene | 2.6 mmol, 0.5 g | C(C)OC1=CC(=CC=C1)CC[N+](=O)[O-] | C10H13NO3
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-(3-Ethoxy-phenyl)-ethylamine | 0.23 g | C(C)OC=1C=C(C=CC1)CCN | C10H15NO
